US09357782B2
2.5 g of 4-hydroxypiperidine and 4.7 g of 4-fluoro-2-(trifluromethyl)-benzonitrile were reacted 5 h at 95° C. in DMSO to form 4-(4-hydroxypiperidin-1-yl)-2-(trifluoromethyl)-benzonitrile which, after aqueous work-up and isolation was disolved in 10 ml DMF was reacted at 5° C. with 250 mg of NaH (60% w/w) for 30 min. Then at 0° C., 2 g of 4,6-dichloropyrimidine were added to the mixture, stirred 30 min at room temperature to form 4-{4-[(6-chloropyrimidin-4-yl)oxy]piperidin-1-yl}-2-(trifluoromethyl)-benzonitrile. 115 mg of isolated by aqueous work-up and isolation by column chromatography were reacted with 138 mg of 1-[4-(trifluoromethyl)-phenyl]piperazine in presence of 117 mg of CsCO3, 7 mg of Pd(OAc)2, 21 mg of RuPhos in 2 ml of tert-BuOH at 85° C. over night to provide compound No. 23 after isolation by aqueous workup and column chromatography.

reactant | 4-hydroxypiperidine | 2.5 g | OC1CCNCC1 | C5H11NO
reactant | 4-fluoro-2-(trifluromethyl)-benzonitrile | 4.7 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(4-hydroxypiperidin-1-yl)-2-(trifluoromethyl)-benzonitrile | OC1CCN(CC1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C13H13F3N2O
